US09402838B2
Synthesis of 4-[(1S)-1-[[(2R)-1-(2-phenoxyethyl)piperidine-2-carbonyl]amino]ethyl]benzoic acid hydrochloride
Dissolve methyl 4-[(1S)-1-[[(2R)-1-(2-phenoxyethyl)piperidine-2-carbonyl]amino]ethyl]benzoate (930 mg, 2.27 mmol) in THF (4.0 mL) and CH3OH (4.0 mL) at room temperature. Add NaOH (1 M aqueous solution, 4.5 mL, 4.5 mmol), then stir the resulting mixture at room temperature for three days. Concentrate the reaction mixture under reduced pressure to furnish a gummy solid. Add hydrogen chloride (4 M solution in dioxane, 2 mL, 8 mmol), and stir vigorously for 10 minutes. Remove the suspended solids by filtration, and concentrate the filtrate under reduced pressure to furnish a white solid. Triturate the solid in boiling diethyl ether (25 mL), and isolate the suspended solids by filtration to furnish the title compound (650 mg, 66% yield) as a white solid. Mass spectrum (m/z): 397 (M+H)+. 1H NMR (400 MHz, DMSO-d6): δ 12.89 (br s, 1H), 10.08 (br s, 1H), 9.41 (d, J=7.6 Hz, 1H), 7.88 (d, J=8.2 Hz, 2H), 7.47 (d, J=8.2 Hz, 2H), 7.26 (dd, J=8.4, 7.6 Hz, 2H), 6.96 (t, J=7.2 Hz, 1H), 6.90 (d, J=7.9 Hz, 2H), 5.02 (app pentet, J=7.1 Hz, 1H), 4.34-4.21 (m, 2H), 4.03 (app t, J=10.2 Hz, 1H), 3.57 (d, J=12.4 Hz, 1H), 3.48-3.39 (m, 1H), 3.37-3.18 (m, 2H), 2.15 (d, J=13.5 Hz, 1H), 1.82-1.66 (m, 4H), 1.50-1.43 (m, 1H), 1.39 (d, J=7.2 Hz, 3H).

reactant | methyl 4-[(1S)-1-[[(2R)-1-(2-phenoxyethyl)piperidine-2-carbonyl]amino]ethyl]benzoate | 2.27 mmol, 930 mg | O(C1=CC=CC=C1)CCN1[C@H](CCCC1)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1 | C24H30N2O4
reactant | NaOH | 4.5 mmol, 1 M, 4.5 mL | [OH-].[Na+]
reactant | hydrogen chloride | 8 mmol, 4 M, 2 mL | Cl | ClH
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | CH3OH | 4.0 mL | CO | CH4O
product | 4-[(1S)-1-[[(2R)-1-(2-phenoxyethyl)piperidine-2-carbonyl]amino]ethyl]benzoic acid hydrochloride | 650 mg, 66% yield | Cl.O(C1=CC=CC=C1)CCN1[C@H](CCCC1)C(=O)N[C@@H](C)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C23H28N2O4.ClH/c1-17(18-10-12-19(13-11-18)23(27)28)24-22(26)21-9-5-6-14-25(21)15-16-29-20-7-3-2-4-8-20;/h2-4,7-8,10-13,17,21H,5-6,9,14-16H2,1H3,(H,24,26)(H,27,28);1H/t17-,21+;/m0./s1
